US04956359
N-(3-Methyl-2-butenyl)-3-[4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A solution of 3.6 g. (0.022 mole) of 1,1'-carbonyldiimidazole in 100 ml of methylene chloride was cooled in a tap water bath and while stirring under nitrogen, 1.87 g (0.022 mole) of 3-methyl-2-butenylamine was added dropwise. After stirring for 1 hr, 6.2 g (0.02 mole) of 3-[4-(trifluoromethyl)phenoxy]azetidine oxalate was added all at once followed in 0.5 hr with 5 ml of triethylamine and stirring continued for an additional 16 hr. The reaction mixture was washed with 2×50 ml of water, dried over magnesium sulfate and concentrated on a rotary evaporator to yield a semi-solid residue. Trituration with isopropyl ether and filtration yielded 7 g of crude product which was recrystallized from ethanol-water to give 5.5 g (83.8%) of white crystals, m.p. 156.5°-158° C.

reactant | 1,1'-carbonyldiimidazole | 0.022 mole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-methyl-2-butenylamine | 0.022 mole, 1.87 g | CC(=CCN)C | C5H11N
reactant | 3-[4-(trifluoromethyl)phenoxy]azetidine oxalate | 0.02 mole, 6.2 g | C(C(=O)O)(=O)O.FC(C1=CC=C(OC2CNC2)C=C1)(F)F
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(3-Methyl-2-butenyl)-3-[4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 5.5 g, 83.8% | CC(=CCNC(=O)N1CC(C1)OC1=CC=C(C=C1)C(F)(F)F)C | C16H19F3N2O2
